US04863563
Preparation of Hexadecylamine Glycidol (5) Adduct
Into a reactor fitted with a dropping funnel, a N2 gas inlet, a stirrer, a thermometer, a condenser, and a gas vent, was placed 36 g (0.15 mole) of hexadecylamine. Under a nitrogen atmosphere, glycidol (55.5 g, 0.75 mole) was added dropwise to the hexadecylamine at 150° to 160° C. Upon completion of the addition, the reaction mixture was stirred at 150° to 160° C. for an additional 45 minutes. The reaction mixture was cooled and the product removed from the flask. The product, identified as a hexadecylamine adduct with 5 moles of glycidol, weighed 91 grams.

reactant | hexadecylamine | 0.15 mole, 36 g | C(CCCCCCCCCCCCCCC)N | C16H35N
reactant | glycidol | 0.75 mole, 55.5 g | C1C(O1)CO | C3H6O2
reactant | glycidol | 5 moles | C1C(O1)CO | C3H6O2
product | Hexadecylamine Glycidol | C(CCCCCCCCCCCCCCC)N.C1C(O1)CO | InChI=1S/C16H35N.C3H6O2/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17;4-1-3-2-5-3/h2-17H2,1H3;3-4H,1-2H2
